US04022786
According to a second process disclosed by Sperber (loc. cit.) diphenylmethane is reacted with 2-bromoethyl ethyl ether to yield 3,3-diphenyl-1-ethoxypropane. Alkylation of 3,3-diphenyl-1-ethoxypropane with 2-dimethylaminoethyl chloride yielded 5-ethoxy-3,3-diphenyl-N,N-dimethylamylamine; cleavage of the ethoxy group gave 5-hydroxy-3,3-diphenyl-N,N-dimethylamylamine hydrobromide, which was reacted with thionyl chloride to give 4,4-diphenyl-1,1-dimethylpiperidinium chloride, from which sublimation in vacuo yielded 1-methyl-4,4-diphenylpiperidine. This synthesis includes 5 reaction steps and provides an overall maximum yield of about 23 percent of theory. The availability of this synthesis for the preparation of homologues of 1-methyl-4,4-diphenylpiperidine, e.g. of 1-ethyl-4,4-diphenylpiperidine or 1-isopropyl-4,4-diphenylpiperidine has to be regarded as doubtful.

reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | 2-bromoethyl ethyl ether | C(C)OCCBr | C4H9BrO
product | 3,3-diphenyl-1-ethoxypropane | C1(=CC=CC=C1)C(CCOCC)C1=CC=CC=C1 | C17H20O
